US08497274B2
(iii) Production of 3-(1-cyano-1-methylethoxy)benzoic acid
To a solution of methyl 3-(1-cyano-1-methylethoxy)benzoate (2.07 g, 9.44 mmol) in methanol (12 ml)/tetrahydrofuran (4 mL) was added 2N aqueous sodium hydroxide solution (9.44 mL, 18.9 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was neutralized with 6N hydrochloric acid (5 mL), 1N hydrochloric acid (50 mL) was added, and the mixture was extracted with ethyl acetate (50 ml, 20 mL). The combined organic layer was washed with saturated brine (10 mL), and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=10/90→50/50), and a fraction containing the object product was concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate and n-hexane to give the title compound (1.01 g, 51%) as colorless crystals.

reactant | methyl 3-(1-cyano-1-methylethoxy)benzoate | 9.44 mmol, 2.07 g | C(#N)C(C)(OC=1C=C(C(=O)OC)C=CC1)C | C12H13NO3
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 18.9 mmol, 2N, 9.44 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 5 mL | Cl | ClH
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
product | 3-(1-cyano-1-methylethoxy)benzoic acid | 1.01 g, 51% | C(#N)C(C)(OC=1C=C(C(=O)O)C=CC1)C | C11H11NO3
